data/mechanism_extracts/EES/10.1039_D3EE02948D_sup_1.json
{"doi": "10.1039_D3EE02948D_sup_1", "journal": "EES", "is_review": false, "rxn_class_summary": "EPR spin-trapping experiments using DMPO to detect carbonate radical (CO3•−) and peroxycarbonate radical (CO4•−) intermediates generated in the electrochemical/catalytic system.", "mechanism_family": ["radical_anodic", "other"], "electrochemical_role": "DMPO spin trap captures reactive oxygen-centered radicals (CO3•− and CO4•−) generated in the system; the radicals are presumed to form via oxidation of (bi)carbonate/peroxycarbonate species, enabling EPR detection of the radical intermediates.", "key_intermediates": [{"name": "carbonate radical anion (CO3•−)", "smiles": "[O-]C(=O)[O]", "role": "reactive"}, {"name": "peroxycarbonate radical anion (CO4•−)", "smiles": "[O-]C(=O)O[O]", "role": "reactive"}, {"name": "DMPO-OCO2 adduct (carbonate addition to DMPO nitrone carbon)", "smiles": null, "role": "transient"}, {"name": "DMPO-OOCO2 adduct (peroxycarbonate addition to DMPO)", "smiles": null, "role": "transient"}, {"name": "DMPO-OH adduct (final EPR-active species after hydrolysis)", "smiles": "CC1(C)CCC(O)=[N+]1[O-]", "role": "reactive"}, {"name": "DMPO-OOH adduct (final EPR-active species after hydrolysis)", "smiles": "CC1(C)CCC(OO)=[N+]1[O-]", "role": "reactive"}], "electron_flow": "CO3•− or CO4•− adds to the α-C of the DMPO nitrone to give a transient DMPO-OCO2 or DMPO-OOCO2 adduct; subsequent hydrolysis releases HCO3− and yields the EPR-detectable DMPO-OH or DMPO-OOH spin adduct.", "rate_determining_step": null, "probe_reagents": [{"name": "DMPO (5,5-dimethyl-1-pyrroline N-oxide)", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "radical_trap", "observation": "Forms DMPO-OH adduct from CO3•− and DMPO-OOH adduct from CO4•−, both detected by EPR, confirming the presence of carbonate and peroxycarbonate radicals."}], "evidence_types_used": ["EPR", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "The DMPO-OH and DMPO-OOH adducts observed by EPR are commonly attributed to •OH and •OOH directly; here the authors propose they arise via nucleophilic addition of CO3•−/CO4•− followed by hydrolytic loss of HCO3−, an alternative interpretation that should be considered when assigning EPR signals."}
